US05696283
Preparation of methyl isopropylideneaminooxyacetoxyacetate
980 ml of water, 328 g of hydroxylammonium sulfate and 460 ml of toluene are initially introduced at from 20° to 50° C. and 232 g (4 mol) of acetone and 320 g (4 mol) of conc. sodium hydroxide solution are simultaneously added dropwise at pH 4.5 to 5.0. To complete the reaction, the mixture is stirred for about 1/2 hour and the phases are separated at from 30° to 40° C. The water phase is extracted twice by shaking with 460 ml of toluene. The entire organic phase is refluxed under reduced pressure (55° C.) at 100-200 mbar. For salt formation, 320 g (4 mol) of conc. sodium hydroxide solution are added dropwise and 250 g of water are simultaneously removed. Toluene is then distilled off at the same temperature and 2,000 ml of DMF are added. 466 g (4 mol) of Na chloroacetate are added to the crystal mash at 50° C. in portions and the mixture is stirred at 50° C. for 5 hours. 433 g (4 mol) of methyl chloroacetate are then added dropwise at from 50° to 55° C., stirring of the mixture is continued at 55° C. for 10 hours and DMF is then distilled over at the same temperature and under reduced pressure. The residue is taken up in toluene and washed with water. After a fractional distillation at 100° C./0.2 mm Hg, 531 g of final product are obtained. This corresponds to a total yield over all stages of 65.3% of theory. The product is obtained in a GC purity of 99.9% and has a refractive index nD20 of 1.4469.

reactant | hydroxylammonium sulfate | 328 g | S(=O)(=O)([O-])[O-].O[NH3+].O[NH3+]
reactant | acetone | 4 mol, 232 g | CC(=O)C | C3H6O
reactant | sodium hydroxide | 4 mol, 320 g | [OH-].[Na+]
reactant | sodium hydroxide | 4 mol, 320 g | [OH-].[Na+]
reactant | methyl chloroacetate | 4 mol, 433 g | ClCC(=O)OC | C3H5ClO2
reactant | toluene | 460 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 980 ml | O | H2O
product | methyl isopropylideneaminooxyacetoxyacetate | C(C)(C)=NOCC(=O)OCC(=O)OC | C8H13NO5
